US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(2-methoxyethylamino)thiazole-4-carboxamide
(S)-2-bromo-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide (0.2 g, 0.444 mmol) and dry pyridine were added into a microwave vial under nitrogen atmosphere. 2-methoxyethylamine (0.193 ml, 2.219 mmol) was added and the mixture was heated with microwaves at 120° C. for 10 h. Afterwards a total of 0.232 ml of 2-methoxyethylamine was added and the mixture was heated for another 10 h. The product was purified by Flash-chromatography. Yield 47.8%. 1H-NMR (400 MHz; CDCl3): δ 1.22 (d, 3H), 3.41 (s, 3H), 3.44 (m, 2H), 3.57 (m, 2H), 4.29 (dd, 1H), 4.40 (dd, 1H), 4.54 (m, 1H), 5.39 (t, 1H), 6.62 (d, 1H), 7.33 (d, 1H), 7.49 (d, 1H), 7.68 (dd, 1H), 7.69 (d, 1H), 7.83 (dd, 1H), 7.98 (dd, 1H).

reactant | (S)-2-bromo-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide | 0.444 mmol, 0.2 g | BrC=1SC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C17H13BrClN5OS
reactant | 2-methoxyethylamine | 2.219 mmol, 0.193 ml | COCCN | C3H9NO
reactant | 2-methoxyethylamine | 0.232 ml | COCCN | C3H9NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(2-methoxyethylamino)thiazole-4-carboxamide | Yield 47.8% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)NCCOC | C20H21ClN6O2S
